US05231192
Example I was repeated using propionaldehyde diethyl acetal as the azeotroping solvent for the reaction to produce the α-alkylidene lactone. For this experiment 100 ml propionaldehyde diethyl acetal was charged to the reactor with 14.9 g (0.10 mole) 3-acetyl-5-methyldihydro-2(3H)-furanone. The mixture was stirred and 4 g (0.10 mole) powdered sodium hydroxide added. The mixture was allowed to stir for 10 minutes and then heated to reflux for 51/2 hours after which time 14.0 g (0.125 mole) cyclohexanecarboxaldehyde was added over a one-hour period. The mixture was heated under reflux for an additional twelve hours, cooled and worked up to recover 19 g crude 3-cyclohexylmethylene-5-methyldihydro-2(3H)-furanone (59% yield). The structure of the product was confirmed by proton and carbon nuclear magnetic resonance spectroscopy.

reactant | 3-acetyl-5-methyldihydro-2(3H)-furanone | 0.10 mole, 14.9 g | C(C)(=O)C1C(OC(C1)C)=O | C7H10O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cyclohexanecarboxaldehyde | 0.125 mole, 14.0 g | C1(CCCCC1)C=O | C7H12O
solvent | propionaldehyde diethyl acetal | 100 ml | C(C)OC(CC)OCC | C7H16O2
product | 3-cyclohexylmethylene-5-methyldihydro-2(3H)-furanone | 19 g, 59% yield | C1(CCCCC1)C=C1C(OC(C1)C)=O | C12H18O2
